US05338739
To a solution of 2-(3-methoxyphenyl)pyrrolidine (3.0 g) in dry acetonitrile (70 ml) was added milled potassium carbonate (6.1 g) followed by 2-picolyl chloride hydrochloride (3.1 g) at ambient temperature, under nitrogen, with stirring for 65 hrs. The reaction mixture was filtered through a pad of celite, and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated and the residue was purified by flash column chromatography (silica gel, 5% methanol/ether). The appropriate fractions were collected and concentrated to give 4.1 g (91%) of 2-(3-methoxyphenyl)-1-(2-pyridinylmethyl)pyrrolidine.

reactant | 2-(3-methoxyphenyl)pyrrolidine | 3.0 g | COC=1C=C(C=CC1)C1NCCC1 | C11H15NO
reactant | potassium carbonate | 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-picolyl chloride hydrochloride | 3.1 g | Cl.N1=C(C=CC=C1)CCl
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(3-methoxyphenyl)-1-(2-pyridinylmethyl)pyrrolidine | 4.1 g, 91% | COC=1C=C(C=CC1)C1N(CCC1)CC1=NC=CC=C1 | C17H20N2O
